US07749992B2
Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methoxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Combine isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.100 g, 0.168 mmol), palladium acetate (0.001 g, 0.0033 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.002 g, 0.0041 mmol), cesium carbonate (0.082 g, 0.252 mmol), and methanol (0.03 mL, 0.67 mmol) in toluene (1 mL) in a 10 mL microwave vessel and irradiate the mixture at 110° C. for 30 min (45 W). Dilute the mixture with ethyl acetate (20 mL), filter through Celite® and remove the solvent under reduced pressure. Purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a white solid (0.028 g, 30%): ESI MS 547 (M+H)

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.168 mmol, 0.100 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
reactant | cesium carbonate | 0.252 mmol, 0.082 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 0.67 mmol, 0.03 mL | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.0033 mmol, 0.001 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.0041 mmol, 0.002 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methoxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.028 g, 30% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)OC)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H28F6N2O4
